US08026257B2
tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)allyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a suspension of methyltriphenylphosphoniumbromide (470 mg, 1.314 mmol) in THF (17 ml) was added N-BUTYLLITHIUM (0.526 ml, 1.314 mmol). The ice bath was removed and the suspension was stirred for 10 min. To this was added tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (277 mg, 0.438 mmol) in 2.5 mL THF. The reaction was allowed to stir 1 hour before diluted with ether (100 mL) and filtered out the solid, the ether layer was washed with water, brine and dried over magnesium sulfate, filtered and concentrated. It was then purified by Biotage LC (20-25% EtOAc/Hex) to give title compound (84 mg, 0.133 mmol, 30.4% yield) as light yellow foam solid. 1H-NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H), 7.49 (d, J=1.8 Hz, 1H), 7.29 (m, 2H), 7.00 T, J=8.8 Hz, 2H), 6.85 (s, 1H), 5.88 (ddd, J=17.2, 10.6, 5.9 Hz, 1H), 5.63(d, J=4.0 Hz, 1H), 5.60 (d, J=3.7 Hz, 1H), 5.30 (d, J=5.5 Hz, 1H), 5.23 (d, J=17.2 Hz, 1H), 5.02 (d, J=10.3 Hz, 1H), 3.69 (m, 2H), 3.58 (t, J=8.4 Hz, 2H), 3.42 (AB, Δν=28.5 Hz, J=8.8 Hz, 2H), 3.04 (m, 2H), 1.80-2.25 (m,4H), 1.41 (s, 9H), 0.88 (t, J=9.2 Hz, 2H), −0.07 (s, 9H). LC/MS (HPLC method 3): tR=4.43 min, 630.3(MH)+.

reactant | N-BUTYLLITHIUM | 1.314 mmol, 0.526 ml | [Li+].CCC[CH2-]
reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.438 mmol, 277 mg | ClC1=CC2=CN(N=C2C(=C1)C(C=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H43ClFN3O5Si
catalyst | methyltriphenylphosphoniumbromide | 1.314 mmol, 470 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)allyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.133 mmol, 84 mg, 30.4% yield | ClC1=CC2=CN(N=C2C(=C1)C(C=C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H45ClFN3O4Si
